US08729263B2
To a 50 mL round bottom flask was added 9-isopropoxy-8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinoline (180 mg, 0.70 mmol), chloroform (13 mL), and methanesulfonic acid (1.3 mL, 20.02 mmol). The resulting mixture was heated at 63° C. for 2 h then cooled to RT and concentrated in vacuo. To the resulting oil was added H2O and aqueous saturated sodium carbonate. The solution was extracted with EtOAc (2×), and the organic extracts were combined, dried with sodium sulfate and concentrated in vacuo to afford 8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinolin-9-ol. (151 mg) MS [M+H+]=217.4.

reactant | 9-isopropoxy-8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinoline | 0.70 mmol, 180 mg | C(C)(C)OC1=C(C=C2CCN3C(C2=C1)=CN=C3)OC | C15H18N2O2
reactant | methanesulfonic acid | 20.02 mmol, 1.3 mL | CS(=O)(=O)O | CH4O3S
solvent | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinolin-9-ol | COC=1C=C2CCN3C(C2=CC1O)=CN=C3 | C12H12N2O2
